US07390910B2
N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-1-isopropyl-3-methyl-4-oxo-4-(1,3-thiazol-2-yl)but-2-enyl]-N1,3-dimethyl-L-valinamide
To a solution of thiazole (0.035 mL, 0.5 mmol) and TMEDA (0.068 mL, 0.45 mmol) in anhydrous THF (1.0 mL) cooled to −60° C. is added n-BuLi (0.17 mL, 0.43 mmol). After stirring for 20 min at −60° C., a solution of N,β,β-trimethyl-L-phenylalanyl-N1-{(1S,2E)-1-isopropyl-4-[methoxy(methyl)-amino]-3-methyl-4-oxobut-2-enyl}-N1,3-dimethyl-L-valinamide (52 mg, 0.1 mmol, from Example 52, in anhydrous THF (0.5 mL) is added. The purple reaction mixture is stirred for 2 h from −60° C. to room temperature, quenched with saturated aqueous ammonium chloride (1.5 mL). The reaction mixture is extracted with ethyl acetate three times. The combined organic layers are dried (Na2SO4), filtered and concentrated. The residue is purified by reversal phase HPLC (mobile phase A: 0.1% TFA/5% acetonitrile/H2O, mobile phase B: 100% acetonitrile) to give 56 mg (86%) of desired product as a yellow solid.

reactant | thiazole | 0.5 mmol, 0.035 mL | S1C=NC=C1 | C3H3NS
reactant | TMEDA | 0.45 mmol, 0.068 mL | CN(C)CCN(C)C | C6H16N2
reactant | n-BuLi | 0.43 mmol, 0.17 mL | [Li]CCCC
reactant | N,β,β-trimethyl-L-phenylalanyl-N1-{(1S,2E)-1-isopropyl-4-[methoxy(methyl)-amino]-3-methyl-4-oxobut-2-enyl}-N1,3-dimethyl-L-valinamide | CN[C@@H](C(C1=CC=CC=C1)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C(\C(=O)N(C)OC)/C)C(C)C | C29H48N4O4
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
product | N,β,β-trimethyl-L-phenylalanyl-N1-[(1S,2E)-1-isopropyl-3-methyl-4-oxo-4-(1,3-thiazol-2-yl)but-2-enyl]-N1,3-dimethyl-L-valinamide | 56 mg, 86% | CN[C@@H](C(C1=CC=CC=C1)(C)C)C(=O)N[C@@H](C(C)(C)C)C(=O)N(C)[C@H](\C=C(\C(C=1SC=CN1)=O)/C)C(C)C | C30H44N4O3S
